US04003914
50 g of 3-veratroylpropionic acid in 400 ml of chloroform and 22.7 g of 1,3-propanedithiol are treated with hydrogen chloride up to saturation while stirring. After 3 hours at room temperature, the solution is evaporated to 50 ml and diluted with ether. The resulting solution is extracted three times with 5% sodium carbonate. The basic phases are combined and made acidic with concentrated hydrochloric acid. The precipitated product is extracted with ether/methylene chloride (1:3). The organic extracts are dried and evaporated. The residue is recrystallized from ethanol, there being obtained 2-(3,4-dimethoxyphenyl)-m-dithiane-2-propionic acid of melting point 134°-135° C.

reactant | 3-veratroylpropionic acid | 50 g | C(C1=CC(OC)=C(OC)C=C1)(=O)CCC(=O)O | C12H14O5
reactant | 1,3-propanedithiol | 22.7 g | C(CCS)S | C3H8S2
reactant | hydrogen chloride | Cl | ClH
solvent | chloroform | 400 ml | C(Cl)(Cl)Cl | CHCl3
product | 2-(3,4-dimethoxyphenyl)-m-dithiane-2-propionic acid | COC=1C=C(C=CC1OC)C1(SCCCS1)CCC(=O)O | C15H20O4S2
